US08871756B2
3-{[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinazolin-4-yl]amino}propane-1,2-diol
A solution of 2-chloro-N-[(2,2-dimethyl-1,3-dioxolan-4-yl)methyl]-6-methylquinazolin-4-amine (431.2 mg, 1.4 mmol) and triethylamine (0.8 mL), 2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (296.1 mg, 1.5 mmol) in N,N-dimethyl-formamide (1.0 mL) was stirred at 160° C. for 4 hours. After being cooled to room temperature, the reaction mixture was dissolved in methanol (2.0 mL). To the above mixture, concentrated hydrochloric acid (0.5 mL) was added, and the resulting mixture was stirred at room temperature for 1 hour, and then extracted with ethyl acetate (100 mL). The organic layer was washed with brine (50 mL×2), dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by preparative HPLC to afford 59.2 mg of the product as a white solid (yield was 10%). MS obsd. (ESI+) [(M+H)+] 429, 1H NMR (400 MHz, CD3OD) δ ppm 7.98 (dd, J=7.83, 1.01 Hz, 1 H), 7.90 (d, J=7.58 Hz, 1 H), 7.66-7.55 (m, 2 H), 7.50-7.35 (m, 2 H), 7.35-7.28 (m, 1 H), 5.21 (brs, 2 H), 4.56 (brs, 2 H), 4.05-3.95 (m, 1 H), 3.86 (dd, J=13.26, 4.42 Hz, 1 H), 3.73-3.56 (m, 3 H), 3.53 (t, J=5.05 Hz, 2 H), 2.39 (s, 3 H).

reactant | 2-chloro-N-[(2,2-dimethyl-1,3-dioxolan-4-yl)methyl]-6-methylquinazolin-4-amine | 1.4 mmol, 431.2 mg | ClC1=NC2=CC=C(C=C2C(=N1)NCC1OC(OC1)(C)C)C | C15H18ClN3O2
reactant | triethylamine | 0.8 mL | C(C)N(CC)CC | C6H15N
reactant | 2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | 1.5 mmol, 296.1 mg | S1(CCNCC2=C1C=CC=C2)(=O)=O | C9H11NO2S
reactant | hydrochloric acid | 0.5 mL | Cl | ClH
solvent | N,N-dimethyl-formamide | 1.0 mL | CN(C=O)C | C3H7NO
solvent | methanol | 2.0 mL | CO | CH4O
product | 3-{[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinazolin-4-yl]amino}propane-1,2-diol | 59.2 mg, yield was 10% | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=N2)NCC(CO)O)C)=O | C21H24N4O4S
